US08026395B1
A three-step process with a total yield less than 10% has been previously reported published in the following patents and journal articles: U.S. Pat. No. 5,637,619 (Jun. 10, 1997 for VNP40101M); U.S. Pat. No. 4,684,747 (Aug. 4, 1987 for intermediate VNP4090CE); WO97/02029 (Jan. 23, 1997); Journal of Medicinal Chemistry, 1990, 33(8): 2259-2264; Journal of Medicinal Chemistry, 1996, 39(3): 796-801, as illustrated in FIG. 1. 2-Hydroxyethylhydrazine (HEH) was used a starting material and reacted with methanesulfonyl chloride to obtain 1,2-bis(methylsulfonyl)-1-[2-(methylsulfonyloxy)ethyl]hydrazine (BMH) at −20° C. for 18 hours, using pyridine as base. The crude intermediate BMH was treated with lithium chloride in acetone under reflux for 3 days to afford 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine (VNP4090CE). After purification by flash column chromatography, an approximately 20% yield was reached for the two steps. VNP4090CE was condensed with methyl isocyanate at room temperature using triethylamine (TEA) as a base. After crystallization from ethanol, 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)-2-(methylcarbamoyl)hydrazine (VNP40101M) with an approximately 42% yield. The total yield of this process was less than 10%. It is noted that the process used methyl isocyanate, which is extremely dangerous for manufacturing in scaleup kilogram amounts. For this reason, the present inventors investigated the synthesis and have developed new methods to prepare VNP40101M.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | BMH | CS(=O)(=O)N(NS(=O)(=O)C)CCOS(=O)(=O)C | C5H14N2O7S3
reactant | lithium chloride | [Cl-].[Li+]
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine | approximately 20% yield | CS(=O)(=O)N(NS(=O)(=O)C)CCCl | C4H11ClN2O4S2
